Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Swallowed Toothpick
 
Major Surgical or Invasive Procedure:
EGD (___)

 
History of Present Illness:
Mr. ___ is a very pleasant ___ year old male who p/w foreign 
body sensation in throat s/p choking and ___ at work 
tonight. Pt states that he was chewing on straw toothpick when 
he accidentally swallowed/choked. Pt reports recent similar 
sensation with eating bread. Now still with FB sensation, thinks 
he swallowed part of the toothpick. Reexam FB sensation 
lower/mid-cervical esophagus.  

In the ED, initial VS were: 98.0, 101, 157/92, 18, 96% RA  
 Exam notable for: HD stable, comfortable, airway patent, 
oropharynx clear, lungs CTAB  
 Labs showed mild anemia  
 Machinoscope showed - no FB above glottis, +posterior pharynx 
erythema.  
 Transfer VS were: 98.0, 62, 125/78, 19, 96% RA  
 
GI was consulted and recommended EGD then admission  
EGD was uncomplicated and they did not find any evidence of 
foreign body.  
Decision was made to admit to medicine for overnight 
observation.  

On arrival to the floor, patient reports that he feels very well 
except for mild headache and acid reflux. He is glad there was 
nothing seen on EDG and reports that he will need his remeron to 
sleep.  
 
REVIEW OF SYSTEMS:  
 as per HPI  
 
Past Medical History:
 Anemia  
 Herpes labialis  
 Hyperlipidemia  
 Anxiety  
 Hypertension  
 S/P ACL reconstruction  
 Diverticulitis large intestine  
 Major depressive disorder, recurrent episode, moderate  
 Traumatic brain injury  
 Polysubstance dependence, non-opioid, in remission  
 NASH (nonalcoholic steatohepatitis)  
 Hoarding disorder with excessive acquisition and w/ good/fair 
insight  
 
Social History:
___
Family History:
 Mother: breast CA? depression  
 Father: T2DM, dementia  
 
Physical Exam:
ADMISSION PHYSICAL EXAM
=================
VS - 98.1, 106/63, 58, 18, 99% RA  
 GENERAL: NAD  
 HEENT: PERRL, EOMI, sclera anicteric, MMM  
 CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
 LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
 ABDOMEN: mildly distended, +BS, nontender in all quadrants, no 
rebound/guarding.  
 EXTREMITIES: WWP, no edema  
 NEURO: CN II-XII grossly intact  

DISCHARGE PHYSICAL EXAM
==================
Vitals: 98.1 106/63 58 18 99 3L General: Alert, oriented, no 
acute  GENERAL: NAD  
 HEENT: PERRL, EOMI, sclera anicteric, MMM. No pharyngeal or 
palatal erythema or irritation.
 CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
 LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
 ABDOMEN: mildly distended, +BS, nontender in all quadrants, no 
rebound/guarding.  
 EXTREMITIES: WWP, no edema  
 NEURO: CN II-XII grossly intact  
 
Pertinent Results:
ADMISSION LABS
===========
___ 10:50PM BLOOD WBC-8.9 RBC-4.13* Hgb-12.9* Hct-37.2* 
MCV-90 MCH-31.2 MCHC-34.7 RDW-12.3 RDWSD-40.0 Plt ___
___ 10:50PM BLOOD Neuts-65.7 ___ Monos-5.6 Eos-0.9* 
Baso-0.6 Im ___ AbsNeut-5.86 AbsLymp-2.37 AbsMono-0.50 
AbsEos-0.08 AbsBaso-0.05
___ 10:50PM BLOOD Plt ___
___ 10:50PM BLOOD Glucose-114* UreaN-17 Creat-1.2 Na-138 
K-4.9 Cl-101 HCO3-25 AnGap-17
___ 10:50PM BLOOD Iron-68
___ 10:50PM BLOOD calTIBC-299 VitB12-532 Ferritn-116 
TRF-230

DISCHARGE LABS
===========
___ 06:11AM BLOOD WBC-7.0 RBC-4.15* Hgb-13.0* Hct-37.1* 
MCV-89 MCH-31.3 MCHC-35.0 RDW-12.3 RDWSD-39.9 Plt ___
___ 06:11AM BLOOD Plt ___
___ 06:11AM BLOOD Glucose-123* UreaN-14 Creat-1.1 Na-139 
K-4.1 Cl-101 HCO3-28 AnGap-14
___ 06:11AM BLOOD Mg-2.2

MICROBIOLOGY
==========
None.

IMAGING & PROCEDURES
================
EGD (___)
Impression: Erythema and congestion in the upper third of the 
esophagus, middle third of the esophagus and lower third of the 
esophagus compatible with Mild esophagitis
Otherwise normal EGD to third part of the duodenum
Recommendations:- No foreign body detected in esophagus or 
posterior oropharynx.
- Mild esophagitis noted
- Lidocaine Viscous solution 15 ml Q12H ___ days

CXR PA & LATERAL (___)
FINDINGS: 
Cardiomediastinal contours are within normal limits and without 
change.  There
is no definitive evidence of pneumomediastinum or pneumothorax. 
Lung volumes
remain slightly low, and lungs and pleural surfaces are clear.
 
IMPRESSION: 
No definitive evidence of pneumomediastinum.

CXR PA & LATERAL (___)
Lucency adjacent to the aortic knob may be artifactual, however
pneumomediastinum is not entirely excluded.  Recommend repeat 
frontal and
lateral radiographs or CT chest for further evaluation.
 
RECOMMENDATION(S):  Lucency adjacent to the aortic knob may be 
artifactual,
however pneumomediastinum is not entirely excluded.  Recommend 
repeat frontal
and lateral radiographs or CT chest for further evaluation.

XR NECK AND SOFT TISSUES (___)
IMPRESSION: 
No radiopaque foreign body.
 
Brief Hospital Course:
Mr. ___ is a ___ yo male who p/w choking sensation in throat 
s/p swallowing toothpick and ___. During the course of his 
hospital stay, the following issues were addressed:

# Esophagitis s/p choking on toothpick. Mr. ___ presented 
with foreign body sensation after choking on a toothpick. Per 
patient he was trying to chew on a straw toothpick and he broke 
it into two pieces and accidentally swallowed one of the pieces. 
As soon as he swallowed it, he started choking and coughing. His 
friend tried ___ maneuver and he vomited but did not notice 
any tooth-pick in the emesis. Soon after that, his friend 
advised him to eat banana to try to make it pass which he did. 
He presented with foreign body sensation in the 
lower/mid-cervical esophagus. Laryngoscopy in ED showed no 
foreign body and  EGD of the esophagus was unremarkable save for 
mild esophagitis. Patient was admitted to the medicine floor for 
overnight observation and did well. He was discharged with a 
prescription for a 7 day course of 
Maalox/Diphenhydramine/Lidocaine 15 mL PO BID.

CHRONIC ISSUES
===========
# Depression/anxiety/insomnia. Continued home remeron and 
fluvoxamine  
 
# HLD. Continued home pravastatin  

# Anemia. Per PCP notes, patient due for outpatient colonoscopy. 
Given no meat diet (fish/fruit/veg since ___ possible iron or 
B12 deficiency.  Iron studies normal with iron of 68, ferritin 
of 116 and TIBC 299. B12 normal at 532.

TRANSITIONAL ISSUES
==============
- Further anemia workup as outpatient. 
- If patient presents in next few days with abdominal pain, low 
threshold for abdominal imaging for concern of intestinal 
perforation.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Fluvoxamine Maleate 100 mg PO QAM 
2. Mirtazapine 45 mg PO QHS 
3. Acyclovir 400 mg PO 5X/D PRN: cold sore 
4. Pravastatin 20 mg PO QPM 
5. Fluvoxamine Maleate 200 mg PO HS 

 
Discharge Medications:
1.  Lidocaine Viscous 2% 15 mL PO TID:PRN Pain 
RX *lidocaine HCl [Lidocaine Viscous] 2 % 15 ml TID:PRN 
Refills:*0 
2.  Maalox/Diphenhydramine/Lidocaine 15 mL PO BID Duration: 7 
Days 
RX *calcium carbonate-simethicone [Maalox Advanced] 1,000 mg-60 
mg 1 tablet(s) by mouth QID:PRN Disp #*28 Tablet Refills:*0 
3.  Acyclovir 400 mg PO 5X/D PRN: cold sore  
4.  Fluvoxamine Maleate 100 mg PO QAM  
5.  Fluvoxamine Maleate 200 mg PO HS  
6.  Mirtazapine 45 mg PO QHS  
7.  Pravastatin 20 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary
=======
Esophagitis
Status post swallowing of foreign body

Secondary
=========
Depression
Hyperlipidemia
Anemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,

It was a pleasure caring for you here at the ___ 
___. You presented after choking on a piece 
wood and had the sensation that something was stuck in your 
throat. Our gastroenterology team saw you and did an endoscopy, 
which showed some irritation but no evidence of the toothpick 
and no evidence of damage to the esophageal wall. With your 
initial chest x-ray in the emergency department, these was some 
concern for air in your chest (which can occur if the esophageal 
wall is damaged), but a higher-definition x ray showed that this 
was not the case. 

We have added the following medication:
1. Maalox and Lidocaine. You may take each of these up to three 
times a day for the next 7 days to help with pain and irritation 
in your esophagus.

Otherwise, please take all of your medications as prescribed. If 
you experience any of the danger signs listed below, please 
contact your primary care provider or come to the emergency 
department immediately. 

Best Wishes,

Your ___ Care Team
 
Followup Instructions:
___